US08067408B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(6-fluoro-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]-5-methyl-1,3-benzenedicarboxamide
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(6-fluoro-3′-formyl-3-biphenylyl)methyl]-5-methyl-1,3-benzenedicarboxamide (30 mg, 0.044 mmol), 1,1-dimethylethyl (2S)-2-methyl-1-piperazinecarboxylate (89 mg, 0.44 mmol, 10 eq) and acetic acid (2.54 μL, 0.044 mmol, 1 eq) were dissolved in DMSO (1.5 mL). The mixture was stirred in VX-2500 Multi-Tube Vortexer for overnight at room temperature. MP-triacetoxyborohydride (133 mg, 0.310 mmol, 7 eq) was then added and the mixture was stirred again in VX-2500 Multi-Tube Vortexer for overnight at room temperature. The reaction mixture was filtered through a polypropylene cartridge (10 mL tube) on Bohdan Miniblock in a reaction tube and concentrated in a Glas-Col evaporator. Methanol (2 mL) then hydrochloric acid (5 μL) were added for the deprotection of 1,1-dimethylethyl (2S)-4-[(5′-{[({3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-5-methylphenyl}carbonyl)amino]methyl}-2′-fluoro-3-biphenylyl)methyl]-2-methyl-1-piperazinecarboxylate. The vial containing the reaction mixture was closed and stirred in a Glas-Col evaporator for overnight at 60° C. The reaction mixture was then concentrated and purified using a Gilson HPLC with a water-acetonitrile with 0.1% TFA buffer. The desired product fractions were combined, filtered through amine cartouche (500 mg) on Bohdan Miniblock and concentrated in a Glas-Col evaporator, giving 20.16 mg (53.8%) of the title compound. LC-MS m/z 761 (M+H)+, 1.31 min (ret time).

reactant | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(6-fluoro-3′-formyl-3-biphenylyl)methyl]-5-methyl-1,3-benzenedicarboxamide | 0.044 mmol, 30 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC(=C2)C)C(=O)NCC=2C=C(C(=CC2)F)C2=CC(=CC=C2)C=O)CC | C39H41FN6O4
reactant | 1,1-dimethylethyl (2S)-2-methyl-1-piperazinecarboxylate | 0.44 mmol, 89 mg, 10 eq | C[C@@H]1N(CCNC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | acetic acid | 0.044 mmol, 2.54 μL, 1 eq | C(C)(=O)O | C2H4O2
reactant | triacetoxyborohydride | 0.310 mmol, 133 mg, 7 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O
solvent | DMSO | 1.5 mL | CS(=O)C | C2H6OS
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(6-fluoro-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]-5-methyl-1,3-benzenedicarboxamide | 20.16 mg, 53.8% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC(=C2)C)C(=O)NCC=2C=C(C(=CC2)F)C2=CC(=CC=C2)CN2C[C@@H](NCC2)C)CC | C44H53FN8O3
